simulator lang=spectre
global 0
; NOTE: replace with your own PDK model file. Original: CSMC 0.18um, sm1816m50v13_usage.scs, section=tt_lib
include "/path/to/your/pdk/model.scs" section=tt_lib

subckt DFCFC1 VINN VINP VOUT IBIAS VDD VSS
PM19 (net025 net025 VDD VDD) mp18 w=1.937e-05 l=1.406e-06 m=32 //// *Load* *gm1* ``PM18``
PM18 (net065 net025 VDD VDD) mp18 w=1.937e-05 l=1.406e-06 m=32 //// *Load* *gm1* ``PM19``
PM12 (net040 IBIASP1 VDD VDD) mp18 w=1.374e-05 l=1.638e-06 m=3 //// *Load* *gm4*
PM8 (net43 net065 VDD VDD) mp18 w=1.979e-05 l=1.618e-06 m=38 //// *Input* *gm2*
PM7 (net47 IBIASP1 VDD VDD) mp18 w=1.972e-05 l=1.977e-06 m=28 //// *Load* *gm2*
PM2 (VOUT net065 VDD VDD) mp18 w=1.946e-05 l=9.45e-07 m=32 //// *Load* *gmL(gm3)*
NM19 (net024 IBIAS VSS VSS) mn18 w=9.26e-07 l=1.554e-06 m=1 //// *Current Tail* *gm1*
NM18 (net065 VINP net024 VSS) mn18 w=1.971e-05 l=7.104e-07 m=31 //// *Input* *gm1* ``NM17``
NM17 (net025 VINN net024 VSS) mn18 w=1.971e-05 l=7.104e-07 m=31 //// *Input* *gm1* ``NM18``
NM15 (net040 net47 VSS VSS) mn18 w=1.74e-05 l=8.255e-07 m=2 //// *Input* *gm4* (no gmL)
NM9 (net47 net43 VSS VSS) mn18 w=1.996e-05 l=1.657e-06 m=39 //// *Load* *gm2*
NM4 (VOUT net47 VSS VSS) mn18 w=1.996e-05 l=6.434e-07 m=25 //// *Input* *gmL(gm3)*
NM8 (net43 net43 VSS VSS) mn18 w=1.96e-05 l=1.757e-06 m=5 //// *Load* *gm2*
C2 (net47 net040) capacitor c=2.389e-12 m=1 //// Miller cap 2
C0 (net065 VOUT) capacitor c=2.865e-12 m=1 //// Miller cap 1

PM11 (net047 IBIASP1 VDD VDD) mp18 w=2e-07 l=5e-07 ////Bias Transistor, should not change
PM10 (IBIASP1 IBIASP2 net047 VDD) mp18 w=2e-07 l=5e-07 ////Bias Transistor, should not change
NM23 (net045 IBIAS2 VSS VSS) mn18 w=2e-07 l=5e-07 ////Bias Transistor, should not change
NM22 (IBIASP2 IBIAS net045 VSS) mn18 w=2e-07 l=5e-07 ////Bias Transistor, should not change
NM6 (net049 IBIAS2 VSS VSS) mn18 w=2e-07 l=5e-07 ////Bias Transistor, should not change
NM5 (IBIAS2 IBIAS net049 VSS) mn18 w=2e-07 l=5e-07 ////Bias Transistor, should not change
R1 (IBIASP1 IBIASP2) resistor r=666666.6666666667////Bias Resistor, should not change
R0 (IBIAS IBIAS2) resistor r=666666.6666666667////Bias Resistor, should not change
ends DFCFC1



            V0 (VSS 0) vsource dc=0 type=dc
            V1 (VDD 0) vsource dc=1.8 type=dc
            C0 (VOUT VSS) capacitor c=1.5e-10
            I0 (VDD IBIAS) isource dc=3e-07 type=dc
            I1 (VOUT VINP VOUT IBIAS VDD VSS) DFCFC1
            V2 (VINP 0) vsource type=pulse val0=1.2 val1=0.6 period=5e-05 rise=1p fall=1p
        